US04579859
A mixture of 2,3-dichlorobenzaldehyde (0.88 g), 3-nitrooxy-2,2-bis(nitrooxymethyl)propyl ester of acetoacetic acid (1.78 g), acetic acid (50 mg), and piperidine (50 mg) in benzene (10 ml) was refluxed for 1.75 hours, during which time water formed was removed azeotropically. The resulting mixture was cooled, washed successively with water, an aqueous sodium bicarbonate and water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 3-nitrooxy-2,2,-bis(nitrooxymethyl)propyl ester of 2-(2,3-dichlorobenzylidene)acetoacetic acid. Ethyl 3-aminocrotonate was mixed with the product obtained above. The resulting mixture was stirred for 1.5 hours at 80° to 90° C., and then cooled. The mixture in ethyl acetate was washed with an aqueous sodium chloride. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue obtained was subjected to column chromatography and eluted with a mixture of ethyl acetate and toluene (1:12 by volume). The fractions containing the desired compound were collected and evaporated under reduced pressure to give yellowish powders. The powders were recrystallized from ethanol to give yellowish crystals of 3-nitrooxy-2,2-bis(nitrooxymethyl)propyl ester of 4-(2,3-dichlorophenyl)-5-ethoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine-3-carboxylic acid (1.39 g), mp 135° to 137° C.

reactant | 2,3-dichlorobenzaldehyde | 0.88 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | acetoacetic acid | 1.78 g | C(CC(=O)C)(=O)O | C4H6O3
reactant | acetic acid | 50 mg | C(C)(=O)O | C2H4O2
reactant | piperidine | 50 mg | N1CCCCC1 | C5H11N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-(2,3-dichlorobenzylidene)acetoacetic acid | ClC1=C(C=C(C(=O)O)C(=O)C)C=CC=C1Cl | C11H8Cl2O3
